US07034157B2
(1) Preparation of 2,6-Bis(4-t-butylphenyl)aniline
The same procedure as in Example 1(1) was used except that reaction was conducted by using 2,6-dibromoaniline (9.00 g, 35.6 mmol), Pd(PPh3)4 (5.0 g), and 4-t-butylphenyl boronic acid (19.0 g, 107 mmol). Yield 3.0 g. 1H NMR (CD2Cl2): δ 7.50 (d, 4H, Harom), 7.43 (d, 4H, Harom), 7.08 (d, 2H, Harom), 6.83 (t, 1H, Harom), 3.93 (s, 2H, NH2), 1.38 (s, 18H, t-Bu).

reactant | 2,6-dibromoaniline | 35.6 mmol, 9.00 g | BrC1=C(N)C(=CC=C1)Br | C6H5Br2N
reactant | 4-t-butylphenyl boronic acid | 107 mmol, 19.0 g | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
catalyst | Pd(PPh3)4 | 5.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,6-Bis(4-t-butylphenyl)aniline | C(C)(C)(C)C1=CC=C(C=C1)C1=C(N)C(=CC=C1)C1=CC=C(C=C1)C(C)(C)C | C26H31N
